US05168110
96 parts by wt. 50% sodium hydroxide solution (in water) were added dropwise in 1 hour to 118 parts by wt. (1 1 mole) hydroxypivalic acid and 200 ml xylene, the temperature of the reaction mixture being kept at 110° C. The whole was kept at 110° C. for half an hour. After cooling to 50° C., 276 parts by wt. (3 mole) epichlorohydrin and 50 g Dowex were added to the reaction mixture. The temperature of the reaction mixture rose to 105° C. At this temperature the mixture was afterreacted for 1 hour. After cooling to 50° C. the water was removed azeotropically at reduced pressure (200 mbar). The salt formed and the Dowex were filtered off. The residue was washed twice with 20 ml ECH. The entire organic phase (ECH+xylene) was removed by means of rotary film evaporation. Thus 160 parts by wt. hydroxypivalic glycidyl ester were obtained in the form of a light yellow liquid with an epoxide content of 5.6 meq/g and a hydroxy content of 310 mg KOH/g.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydroxypivalic acid | 1 mole | OCC(C(=O)O)(C)C | C5H10O3
reactant | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | epichlorohydrin | 3 mole | C(Cl)C1CO1 | C3H5ClO
solvent | water | O | H2O
product | hydroxypivalic glycidyl ester | C(C1CO1)OC(C(CO)(C)C)=O | C8H14O4
